US06617339B1
3-(3-fluoro-4-(5-methyl-imidazol-1-yl)phenyl)-5(R)-methanesulfonyloxymethyloxazolidin-2-one
3-(3-Fluoro-4-(5-methyl-imidazol-1-yl)phenyl)-5(R)-hydroxymethyloxazolidin-2-one (0.86 g, 2.96 mmol) was stirred in a mixture of pyridine (30 ml) and triethylaminc (0.36 g, 3.55 mmol) under nitrogen in an ice-bath. Methanesulfonyl chloride (0.37 g, 3.26 mmol) was added dropwise, and the mixture stirrd for 18 hours, allowing the temperature to rise to ambient. Solvent was evaporated. and the residue dissolved in dichloromethane (50 ml), and washed with aqueous sodium bicarbonate (5%, 25 ml), water (2×25 ml), brine (20 ml), and dried (magnesium sulfate). The residue after evaporation was triturated with diethyl ether to give the title product (0.68 g).

reactant | 3-(3-Fluoro-4-(5-methyl-imidazol-1-yl)phenyl)-5(R)-hydroxymethyloxazolidin-2-one | 2.96 mmol, 0.86 g | FC=1C=C(C=CC1N1C=NC=C1C)N1C(O[C@H](C1)CO)=O | C14H14FN3O3
reactant | Methanesulfonyl chloride | 3.26 mmol, 0.37 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 3-(3-fluoro-4-(5-methyl-imidazol-1-yl)phenyl)-5(R)-methanesulfonyloxymethyloxazolidin-2-one | 0.68 g | FC=1C=C(C=CC1N1C=NC=C1C)N1C(O[C@H](C1)COS(=O)(=O)C)=O | C15H16FN3O5S
